US07335658B2
4-METHYL-2-({6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBONYL}AMINO)PENTANOIC ACID Methyl Ester
Following the procedure of Example 15, making variations only as required to use 2-[(6-chloropyridazine-3-carbonyl)amino]-4-methylpentanoic acid methyl ester in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)-methanone, the title compound was obtained as a white solid (36% yield). 1H NMR (400 MHz, CDCl3) δ 8.16, 8.04, 7.85, 7.66-7.53, 7.28, 7.00, 4.82-4.77, 4.14-3.68, 3.58-3.51, 1.83-1.60, 1.03-0.95.

reactant | 2-[(6-chloropyridazine-3-carbonyl)amino]-4-methylpentanoic acid methyl ester | COC(C(CC(C)C)NC(=O)C=1N=NC(=CC1)Cl)=O | C12H16ClN3O3
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)-methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 4-METHYL-2-({6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBONYL}AMINO)PENTANOIC ACID Methyl Ester | COC(C(CC(C)C)NC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C24H28F3N5O4
